US08686015B2
Step 2: Preparation of 2-(5-(4-bromophenyl)-1-(4-hydroxyphenyl)-1H-pyrrol-2-yl)acetic acid (4C, R2=4-bromophenyl)
To a solution of ethyl 2-(5-(4-bromophenyl)-1-(4-hydroxyphenyl)-1H-pyrrol-2-yl)acetate (2.0 g, 5.013 mmol) in THF/H2O (v/v=1/1, 20 mL) was added LiOH H2O (632 mg, 15.038 mmol). The solution was stirred at room temperature for 3 h. THF was evaporated in vacuo and the resultant aqueous solution was acidified with 10% HCl to pH=3.0. The resultant precipitate was isolated by filtration, rinsed with water (50 mL) and dried in vacuo to afford 4C, R2=4-bromophenyl (1.380 g, yield 74%) as a brown powder.

reactant | ethyl 2-(5-(4-bromophenyl)-1-(4-hydroxyphenyl)-1H-pyrrol-2-yl)acetate | 5.013 mmol, 2.0 g | BrC1=CC=C(C=C1)C1=CC=C(N1C1=CC=C(C=C1)O)CC(=O)OCC | C20H18BrNO3
reactant | LiOH H2O | 15.038 mmol, 632 mg | O[Li].O
solvent | THF H2O | 20 mL | C1CCOC1.O
product | 2-(5-(4-bromophenyl)-1-(4-hydroxyphenyl)-1H-pyrrol-2-yl)acetic acid | BrC1=CC=C(C=C1)C1=CC=C(N1C1=CC=C(C=C1)O)CC(=O)O | C18H14BrNO3
